US09056859B2
To a stirred solution of HNO3 (0.55 mL) was added a mixture of (3-fluorophenyl)acetic acid (2 g, 13 mmol) and H2SO4 (4 mL) at 0° C. dropwise. After 2 hours, the mixture was diluted with ice-water and extracted with EtOAc. The combined organic layers were washed with brine, dried over anhydrous Na2SO4 and concentrated. The residue was purified by prep-TLC to give (3-fluoro-4-nitrophenyl)acetic acid. 1H-NMR (400 MHz, MeOD) δ ppm 8.2˜8.24 (m, 1H), 7.26˜7.3 (m, 2H), 4.06 (s, 2H).

reactant | HNO3 | 0.55 mL | [N+](=O)(O)[O-] | HNO3
reactant | (3-fluorophenyl)acetic acid | 13 mmol, 2 g | FC=1C=C(C=CC1)CC(=O)O | C8H7FO2
reactant | H2SO4 | 4 mL | OS(=O)(=O)O | H2O4S
product | (3-fluoro-4-nitrophenyl)acetic acid | FC=1C=C(C=CC1[N+](=O)[O-])CC(=O)O | C8H6FNO4
